US05691364
To 3,3'-[3-amino-2,6-pyridinediylbis(oxy)]bis(benzonitrile) (1.0 g, 2.9 mmol) dissolved in acetonitrile (50 mL) was added benzoyl chloride (0.50 g, 3.5 mmol) and triethylamine (0.45 g, 0.60 mmol). After stirring for 3 hours, the reaction was partitioned between ether and water. The organic layer was separated, washed with water, saturated aqueous sodium bicarbonate, and brine, dried (MgSO4), and the solvent was removed in vacuo. Chromatography on silica gel with ethyl acetate/hexane (1/3) as eluent gave N-[2,6-bis(3-cyanophenoxy)pyridin-3-yl]benzamide; NMR (CDCl3) 8.95 (d,1), 8.25 (s,1), 7.9 (d,1), 7.2-7.7 (m,12), 6.8 (d,1) ppm;

reactant | 3,3'-[3-amino-2,6-pyridinediylbis(oxy)]bis(benzonitrile) | 2.9 mmol, 1.0 g | NC=1C(=NC(=CC1)OC=1C=C(C#N)C=CC1)OC=1C=C(C#N)C=CC1 | C19H12N4O2
reactant | benzoyl chloride | 3.5 mmol, 0.50 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 0.60 mmol, 0.45 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-[2,6-bis(3-cyanophenoxy)pyridin-3-yl]benzamide | C(#N)C=1C=C(OC2=NC(=CC=C2NC(C2=CC=CC=C2)=O)OC2=CC(=CC=C2)C#N)C=CC1 | C26H16N4O3
